US06329389B1
3-(N,N-Dimethylamino)methyl-1,2,3,4-tetrahydroquinoline
N,N-Dimethyl-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxamide (9.486 g) was added to 1M Borane-THF complex (200 ml). The reaction mixture was heated under reflux for 45 minutes, and left standing for cooling. The reaction mixture was ice-cooled, to which were added water (20 ml) and 6N hydrochloric acid (50 ml). The mixture was stirred at room temperature for 15 hours, and concentrated. A methanol solution (200 ml) of the residue was heated under reflux for 6 hours, and concentrated. 3N aqueous sodium hydroxide solution was added to the residue to become basic, which was extracted with ethyl acetate. The residue was purified by alumina column chromatography (eluent: ethyl acetate/hexane=1/10). The obtained crude crystals were washed with hexane to give the entitled compound (5.569 g)

reactant | N,N-Dimethyl-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxamide | 9.486 g | CN(C(=O)C1C(NC2=CC=CC=C2C1)=O)C | C12H14N2O2
reactant | hydrochloric acid | 6N, 50 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 3-(N,N-Dimethylamino)methyl-1,2,3,4-tetrahydroquinoline | 5.569 g | CN(C)CC1CNC2=CC=CC=C2C1 | C12H18N2
